US05434150
2-(4-Methoxycarbonylamidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole
0.26 g of 2-(4-amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole-hydrochloride are suspended in 50 ml of methylene chloride and, whilst cooling with ice, 0.5 ml of N-ethyl-diisopropylamine and 0,067 ml of methyl chloroformate are added. The mixture is stirred at ambient temperature, after half an hour a further 0.5 ml of N-ethyl-diisopropylamine and 0.03 ml of methyl chloroformate are added and, after another half hour, a further 0.1 ml of N-ethyl-diisopropylamine and 0.03 ml of methyl chloroformate. The mixture is stirred for a further half hour, evaporated down in vacuo and purified by column chromatography (silica gel; eluant:ethyl acetate/ethanol=100:2.5 to 100:12.5). Yield: 0.12 g (40% of theory), Rf value: 0.41 (silica gel; ethyl acetate/ethanol=8:2)

reactant | 2-(4-amidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole-hydrochloride | 0.26 g | Cl.C(N)(=N)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC
reactant | N-ethyl-diisopropylamine | 0.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0,067 ml | ClC(=O)OC | C2H3ClO2
reactant | N-ethyl-diisopropylamine | 0.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.03 ml | ClC(=O)OC | C2H3ClO2
reactant | N-ethyl-diisopropylamine | 0.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.03 ml | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxycarbonylamidino-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | COC(=O)NC(=N)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC | C22H23N5O5
